US04593102
3-[(3-Chlorophenyl)sulfonyl]-N-[2-(dimethylamino)ethyl]-1-piperidinecarboxamide Monohydrochloride
A solution of 3.57 g (0.022 mole) of 1,1'-carbonyldiimidazole and 1.78 g (0.020 mole) of N,N-dimethylaminoethylamine in 200 ml of tetrahydrofuran was stirred at room temperature for 1 hr. A solution of 4.63 g (0.0179 mole) of 3-[(3-chlorophenyl)sulfonyl]piperidine (free base) in 100 ml of tetrahydrofuran was added and the mixture was refluxed for 22 hr. The solvent was removed in vacuo to give an oil. The oil was dissolved in methylene chloride and the solution was extracted with 6 portions of water, the water washes being discarded. The methylene chloride phase was dried over magnesium sulfate and the solvent was removed in vacuo to give an oil, the free base of the title compound. The free base was converted to the hydrochloride salt as in Example 14 to give 3.39 g (46.2%) of white crystals, m.p. 181°-183° C. with decomposition.

reactant | 1,1'-carbonyldiimidazole | 0.022 mole, 3.57 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N,N-dimethylaminoethylamine | 0.020 mole, 1.78 g | CNN(NC)CC | C4H13N3
reactant | 3-[(3-chlorophenyl)sulfonyl]piperidine | 0.0179 mole, 4.63 g | ClC=1C=C(C=CC1)S(=O)(=O)C1CNCCC1 | C11H14ClNO2S
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-[(3-Chlorophenyl)sulfonyl]-N-[2-(dimethylamino)ethyl]-1-piperidinecarboxamide Monohydrochloride | Cl.ClC=1C=C(C=CC1)S(=O)(=O)C1CN(CCC1)C(=O)NCCN(C)C | InChI=1S/C16H24ClN3O3S.ClH/c1-19(2)10-8-18-16(21)20-9-4-7-15(12-20)24(22,23)14-6-3-5-13(17)11-14;/h3,5-6,11,15H,4,7-10,12H2,1-2H3,(H,18,21);1H
